US03998822
2.0 parts by weight of 1,4-dichloro-7-phenylpyrido(3,4-d)pyridazine is added to 20 parts by volume of 2-methylmorpholine, and the resulting mixture is heated at 130° to 140° C for 4 hours. The excess amount of 2-methylmorpholine is removed by evaporation under reduced pressure. Water is added to the residue to obtain crude crystals, which is recrystallized from n-hexane to obtain 1,4-bis(2'-methylmorpholino)-7-phenylpyrido(3,4-d)pyridazine as yellow prisms melting at 75° to 81° C. Elementary analysis for C23H27O2N5

reactant | 1,4-dichloro-7-phenylpyrido(3,4-d)pyridazine | ClC1=C2C(=C(N=N1)Cl)C=NC(=C2)C2=CC=CC=C2 | C13H7Cl2N3
reactant | 2-methylmorpholine | CC1CNCCO1 | C5H11NO
product | 1,4-bis(2'-methylmorpholino)-7-phenylpyrido(3,4-d)pyridazine | CC1OCCN(C1)C1=C2C(=C(N=N1)N1CC(OCC1)C)C=NC(=C2)C2=CC=CC=C2 | C23H27N5O2
